US08013156B2
3′-Pyridin-4-ylethynyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethylphenyl)amide (˜0.4 mmol) was dissolved in 5 mL ethanol. Then, 50 mg of 10% palladium on carbon was added. The reaction flask was flushed with hydrogen and the reaction was stirred at room temperature for 5 hr under 1 atmosphere of hydrogen. The reaction mixture was filtered through Celite and concentrated under vacuum. The residue was purified by reverse phase HPLC to give N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyridin-2-yl}piperazine-1-carboxamide (80 mg) as a yellow solid. 1H NMR (DMSO-d6) δ 9.34 (s, 1H), 8.48 (d, 2H), 8.23 (s, 1H), 8.20 (d, 1H), 8.14 (d, 2H), 7.58 (s, 1H), 7.39 (d, 2H), 3.66 (m, 4H), 3.13-3.43 (m, 8H) ppm.

reactant | 3′-Pyridin-4-ylethynyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid (3,5-bis-trifluoromethylphenyl)amide | ˜0.4 mmol | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CN=C1C#CC1=CC=NC=C1)(F)F | C24H18F6N6O
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyridin-2-yl}piperazine-1-carboxamide | 80 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CC=C1OCC1=CC=NC=C1)(F)F | C24H21F6N5O2
